US06822100B2
The crude trans-2-(5-fluoro-3-indolylcarbonyl)cyclopropanecarboxylic acid ethyl ester (0.55 g, 2 mmol) was suspended in ethanol and sodium hydroxide solution (4 ml, 1N, 4 mmol) was added. The resultant solution was stirred for 4 hr at 20° and 0.5 hr at reflux. The ethanol was removed in vacuo and the residue mixed with water. The mixture was extracted with ethyl acetate. The aqueous layer was separated and made acidic with 12 N HCl. The precipitate was collected and air dried to give trans-2-(5-fluoro-3-indolylcarbonyl)cyclopropanecarboxylic acid as an off-white solid (0.30 g), mp 276-277 dec. LC/MS mw=247; retention time 1.19 min. Mol wt calc1d for C13H10FNO2: 247.

reactant | trans-2-(5-fluoro-3-indolylcarbonyl)cyclopropanecarboxylic acid ethyl ester | 2 mmol, 0.55 g | C(C)OC(=O)[C@H]1[C@@H](C1)C(=O)C1=CNC2=CC=C(C=C12)F | C15H14FNO3
reactant | sodium hydroxide | 4 mmol, 1N, 4 ml | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | trans-2-(5-fluoro-3-indolylcarbonyl)cyclopropanecarboxylic acid | 0.30 g | FC=1C=C2C(=CNC2=CC1)C(=O)[C@H]1[C@@H](C1)C(=O)O | C13H10FNO3
